US08106232B2
b. trans-Trifluoro-methanesulfonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydro-naphthalen-2-yl ester
A mixture of trans-(1,1-diethyl-7-hydroxy-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid tert-butyl ester (195.0 g, 0.558 mol), triethylamine (160 mL, 1.1 mol) and ethyl acetate (2000 mL) was stirred at room temperature for 15 min and cooled to 0° C. followed by slow addition of trifluoro-methanesulfonyl chloride (150 g, 0.89 mol) keeping the internal temperature below 4° C. The resulting slurry was stirred at 0° C. for 1 h. Additional triethylamine (16 mL) followed by additional trifluoromethanesulfonyl chloride (15.0 g) was added slowly maintaining a temperature below 5° C. The reaction mixture was stirred at room temperature for an additional hour. Diluted brine (1.0 L) was added and the reaction mixture was stirred for 10 min at room temperature. The layers were separated; the organic layer was washed with diluted NaHCO3 (1.0 L) and then concentrated to ˜350 mL by rotary evaporation at 28° C. and stirred at room temperature for 30 min. Heptane (700 mL) was added and the resulting slurry was stirred at room temperature for 30 min, cooled to 4° C. and stirred for 1 h. The solids were filtered, washed with heptane, and then dried under vacuum to yield the title compound (193.0 g, >97% purity). The filtrate was concentrated, slurried in an isopropyl acetate and heptane mixture (1:3, 60 mL) over 30 min, filtered and dried to yield additional product (45.0 g, >97% purity).

reactant | trans-(1,1-diethyl-7-hydroxy-3-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid tert-butyl ester | 0.558 mol, 195.0 g | C(C)(C)(C)OC(N[C@@H]1C(C2=CC(=CC=C2C[C@H]1OC)O)(CC)CC)=O | C20H31NO4
reactant | triethylamine | 1.1 mol, 160 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 2000 mL | C(C)(=O)OCC | C4H8O2
reactant | trifluoro-methanesulfonyl chloride | 0.89 mol, 150 g | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | triethylamine | 16 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | 15.0 g | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | brine | 1.0 L | [Cl-].[Na+].O
product | trans-Trifluoro-methanesulfonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-6-methoxy-5,6,7,8-tetrahydro-naphthalen-2-yl ester | 193.0 g, >97% | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC=2C=CC(=CC2C1(CC)CC)OS(=O)(=O)C(F)(F)F)OC | C21H30F3NO6S
